US05707991
A The reaction is carried out in a way analogous to that described in Example 3, but from 1.6 g of methyl (2RS,4RS,5SR)-2-(3,3-dimethylpiperidinocarbonyl)-5-(2-fluorophenyl)-1-{2-[3-(3-(methoxycarbonylmethyl)phenyl)ureido]acetyl}pyrrolidine-4-carboxylate and 0.3 g of potassium hydroxide in a mixture of 20 cm3 of distilled water and 40 cm3 of methanol. After treatment, there is obtained 0.55 g of (2RS,4SR,5SR)-1-{2-[3-(3-(carboxymethyl)phenyl)ureido]acetyl}-2-(3,3-dimethylpiperidinocarbonyl)-5-(2-fluorophenyl)pyrrolidine-4-carboxylic acid, melting at 173° C.

reactant | methyl (2RS,4RS,5SR)-2-(3,3-dimethylpiperidinocarbonyl)-5-(2-fluorophenyl)-1-{2-[3-(3-(methoxycarbonylmethyl)phenyl)ureido]acetyl}pyrrolidine-4-carboxylate | 1.6 g | CC1(CN(CCC1)C(=O)C1N(C(C(C1)C(=O)OC)C1=C(C=CC=C1)F)C(CNC(=O)NC1=CC(=CC=C1)CC(=O)OC)=O)C | C32H39FN4O7
reactant | potassium hydroxide | 0.3 g | [OH-].[K+]
solvent | water | 20 cm3 | O | H2O
solvent | methanol | 40 cm3 | CO | CH4O
product | (2RS,4SR,5SR)-1-{2-[3-(3-(carboxymethyl)phenyl)ureido]acetyl}-2-(3,3-dimethylpiperidinocarbonyl)-5-(2-fluorophenyl)pyrrolidine-4-carboxylic acid | 0.55 g | C(=O)(O)CC=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)C(=O)O)C(=O)N1CC(CCC1)(C)C)=O | C30H35FN4O7
